US06015818
A mixture of 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (750 mg), hydrazine monohydrate (117 mg) and ethanol was heated under reflex for 4 hours. The precipitate was removed by filtration and filtrate was evaporated in vacua. The residue was dissolved with a mixture of chloroform and methanol (10:1, V/V), precipitate was removed by filtration and filtrate was evaporated in vacua. The residue was purified by column chromatography on silica gel eluting with chloroform--methanol to afford 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (390 mg) as an amorphous powder.

reactant | 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 750 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl | C34H26Cl2N4O5
reactant | hydrazine monohydrate | 117 mg | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 390 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC1)Cl)Cl | C26H24Cl2N4O3
